US09260459B2
(Step 1) To (S)-3-hydroxydihydrofuran-2(3H)-one (0.5 mL, 6.41 mmol), dichloromethane (6.4 mL), triethylamine (1.34 mL, 9.62 mmol), tert-butyldimethylsilylchloride (1.06 g, 7.07 mmol), and DMAP (39 mg, 0.321 mmol) were added, and the resulting mixture was stirred at room temperature for 3 hours. To the reaction mixture, a saturated aqueous ammonium chloride solution was added, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. To the obtained residue, methanol (11 mL) and sodium methoxide (331 mg, 6.13 mmol) were added, and the resulting mixture was stirred at 50° C. for 2.5 hours. The reaction mixture was cooled to room temperature, and a saturated aqueous ammonium chloride solution was added thereto, and then, the resulting mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=0/100 to 30/70), whereby methyl (S)-2-(tert-butyldimethylsiloxy)-4-hydroxybutanoate (225 mg, 14%) was obtained.

reactant | (S)-3-hydroxydihydrofuran-2(3H)-one | 6.41 mmol, 0.5 mL | O[C@@H]1C(OCC1)=O | C4H6O3
reactant | triethylamine | 9.62 mmol, 1.34 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilylchloride | 7.07 mmol, 1.06 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium methoxide | 6.13 mmol, 331 mg | C[O-].[Na+]
catalyst | DMAP | 0.321 mmol, 39 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methanol | 11 mL | CO | CH4O
solvent | dichloromethane | 6.4 mL | ClCCl | CH2Cl2
product | methyl (S)-2-(tert-butyldimethylsiloxy)-4-hydroxybutanoate | 225 mg, 14% | O([Si](C)(C)C(C)(C)C)[C@H](C(=O)OC)CCO | C11H24O4Si
